US04621140
A solution of N2 -acetyl-9-[1,3-di-(2,2-dimethylpropanoyloxy)-2-propoxymethyl]guanine in 10% ammonium hydroxide in methanol was kept at room temperature for 7 hours and then evaporated. The residue was recrystallized from methanol to give 9-[1,3-di-(2,2-dimethylpropanoyloxy)-2-propoxymethyl]guanine, m.p. 230°-232° C.

reactant | N2 acetyl-9-[1,3-di-(2,2-dimethylpropanoyloxy)-2-propoxymethyl]guanine | N#N.C(C)(=O)NC=1NC(C=2N=CN(C2N1)COC(COC(C(C)(C)C)=O)COC(C(C)(C)C)=O)=O
solvent | ammonium hydroxide | [OH-].[NH4+]
solvent | methanol | CO | CH4O
product | 9-[1,3-di-(2,2-dimethylpropanoyloxy)-2-propoxymethyl]guanine | CC(C(=O)OCC(COC(C(C)(C)C)=O)OCN1C=2N=C(NC(C2N=C1)=O)N)(C)C | C19H29N5O6
